US05344843
A mixture of alpha-oxo-4-[[2-[3-(2-phenoxyethoxy)-2-naphthalenyloxy]ethyl]oxy]benzeneacetic acid methyl ester (0.50 g) in hot methanol (10 mL) plus enough tetrahydrofuran to dissolve the solids, was treated with 1N sodium hydroxide (2 mL) and diluted with water. The organic solvent was removed under vacuum and the residue was mixed with water, acidified with excess 2N hydrochloric acid, and extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered, and evaporated to give crude product. Crystallization from acetone-hexane provided 0.45 g of alpha-oxo-4-[[2-[3-(2-phenoxyethoxy)-2-naphthalenyloxy]ethyl]oxy]benzeneacetic acid as a colorless solid, mp 176°-177° C.

reactant | alpha-oxo-4-[[2-[3-(2-phenoxyethoxy)-2-naphthalenyloxy]ethyl]oxy]benzeneacetic acid methyl ester | 0.50 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1OCCOC1=CC=CC=C1)=O)=O | C29H26O7
reactant | sodium hydroxide | 1N, 2 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | alpha-oxo-4-[[2-[3-(2-phenoxyethoxy)-2-naphthalenyloxy]ethyl]oxy]benzeneacetic acid | 0.45 g | O=C(C(=O)O)C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1OCCOC1=CC=CC=C1 | C28H24O7
